US07855290B2
Morpholine-4-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide
Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide (128 mg) was dissolved in tetrahydrofuran (3 ml), and 20% palladium hydroxide on carbon (26.3 mg) was added at room temperature under a nitrogen atmosphere, followed by stirring under a hydrogen atmosphere for 7 hr. The atmosphere in the reaction vessel was replaced with nitrogen, and the catalyst was removed by filtration and washed with tetrahydrofuran. The solvent was removed under reduced pressure to provide the titled compound as a pale yellow solid (121 mg).

reactant | Morpholine-4-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | 128 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1 | C16H16N4O5
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 26.3 mg | [OH-].[OH-].[Pd+2]
product | Morpholine-4-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 121 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1 | C16H18N4O3
